US09126969B2
A solution of 18 mg of 3-[3-[6-(2-dimethylaminoethylamino)-5-fluoro-1H-benzimidazol-2-yl]-1-(tetrahydro-pyran-2-yl)-1H-pyrazol-4-yl]-1,1-diethylurea in 1 mL of dichloromethane and 500 μL of trifluoroacetic acid are stirred for 72 hours at ambient temperature. After evaporation of the solvent under vacuum in a rotary evaporator, the reaction crude is purified by flash chromatography on an Analogix RS-4 cartridge with an eluent of 100% dichloromethane to 90/10 dichloromethane/ammoniacal methanol. 10 mg of 3-{3-[6-(2-dimethylaminoethylamino)-5-fluoro-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}-1,1-diethylurea in the form of trifluoroacetate are isolated. 1H NMR (300 MHz, DMSO-d6, δ in ppm), after addition of a drop of TFA-d1 (CF3COOD-d1) and of a drop of acetic acid-d4-(CD3OD-d4): 1.16 (t, J=7.0 Hz, 6H); 2.87 (s, 6H); 3.38 (m, 6H); 3.51 (t, J=6.0 Hz, 2H); 6.89 (d, J=7.5 Hz, 1H); 7.44 (d, J=11.0 Hz, 1H); 7.98 (s, 1H).

reactant | 3-[3-[6-(2-dimethylaminoethylamino)-5-fluoro-1H-benzimidazol-2-yl]-1-(tetrahydro-pyran-2-yl)-1H-pyrazol-4-yl]-1,1-diethylurea | 18 mg | CN(CCNC=1C(=CC2=C(NC(=N2)C2=NN(C=C2NC(N(CC)CC)=O)C2OCCCC2)C1)F)C | C24H35FN8O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 500 μL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-{3-[6-(2-dimethylaminoethylamino)-5-fluoro-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}-1,1-diethylurea | 10 mg | CN(CCNC=1C(=CC2=C(NC(=N2)C2=NNC=C2NC(N(CC)CC)=O)C1)F)C | C19H27FN8O
